US04250183
Analogously to Example 1, by using equivalent quantities, reacting N-(p-chlorobenzoyl)-4-(p-anisidino)-butyric acid and ethyl 4-(2,6-dimethylanilino)butyrate and suitable processing produces ethyl N-[N-(p-chlorobenzoyl)-4-(p-anisidino)butyryl]-4-(2,6-dimethylanilino)butyrate (oil), saponification of which and the processing of the reaction product yields N-[N-(p-chlorobenzoyl)-4-(p-anisidino)butyryl]-4-(2,6-dimethylanilino)butyric acid (M.P. 131° to 133°).

reactant | N-(p-chlorobenzoyl)-4-(p-anisidino)-butyric acid | ClC1=CC=C(C(=O)N(C2=CC=C(OC)C=C2)CCCC(=O)O)C=C1 | C18H18ClNO4
reactant | ethyl 4-(2,6-dimethylanilino)butyrate | CC1=C(NCCCC(=O)OCC)C(=CC=C1)C | C14H21NO2
product | ethyl N-[N-(p-chlorobenzoyl)-4-(p-anisidino)butyryl]-4-(2,6-dimethylanilino)butyrate | ClC1=CC=C(C(=O)N(C2=CC=C(OC)C=C2)CCCC(=O)N(C2=C(C=CC=C2C)C)CCCC(=O)OCC)C=C1 | C32H37ClN2O5
